### PR TITLE
Term translators and bitvectors

### LINKED ISSUE #23: Define-fun from local declarations
During monomorphisation, we have to introduce auxiliary let-declarations for the monomorphised functions. It would be great if `smt` was able to `define-fun` these rather than just `declare-fun`. Here is a simpler example with no types involved:
```lean
example (x y z : Int) : x + y + z = x + (y + z) := by
  let add3 (x y z : Int) := x + y + z
  have : x + y + z = add3 x y z := rfl
  rw [this]
  smt -- (declare-fun add3 (Int Int Int) Int)
  smt [add3] -- failed to unfold definition add3
  sorry
```

### PR DESCRIPTION
**Pull request by Vtec234**
- Redefine `Transformer := Expr → Option Expr` as `Translator := Expr → Option Term`, with different semantics for the `Option` (see docstring). Translators call `applyTranslators!` directly instead of choosing to return `e` or `e'`. These changes give individual translators more control over their final output, in particular the ability to do type-aware literal emission.
- Define `BitVec` and some operators.
- Lowercase `Term` constructors to fit convention.
- Use the new translation flexibility to implement translators for a fragment of the bitvector theory.
- Move to a single-pass query builder in `QueryBuilderM`. This makes it easier to handle recursive translation of let-bindings in the local context, and to unify some of the duplicated defineFun functionality. It also made it easy to add a translation cache.
- Closes #23.
- Allow defining and declaring sorts.
- Correctly handle curried binders.

This PR grew a bit brutally large so I will stop here and continue with more bitvector functionality in another. I will draw your attention to some of the more important changes using comments.

### CODE REVIEW

File: Smt/Commands.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+Authors: Abdalrhman Mohamed, Tomaz Gomes Mascarenhas, Wojciech Nawrocki
+-/
+
+import Smt.Solver
+import Smt.Term
+
+namespace Smt
+
+/-- An SMT-LIBv2 command that we can emit. -/
+inductive Command where
```
Comment (Vtec234) [inline Smt/Commands.lean:14]: I found it useful to have an explicit datatype for commands rather than weaving `Solver` state through. With this, we can store `Command`s in the dependency graph and then just send them to `Solver` during the DFS. I think this should also work with a `SolverM` which immediately sends the commands over to a process.

Note I only have `defineFun` and `defineConst = defineFun (ps := [])`.

File: Smt/Nat.lean [hunk 2]
```diff
@@ -2,81 +2,68 @@
...
-  | app (app (const `GE.ge ..) (const `Nat ..) _) .. =>
-    pure (mkConst (Name.mkSimple ">="))
-  | e                  => pure e
+@[smtTranslator] def replaceConst : Translator
+  | const `Nat.add ..                                => return symbolT "+"
+  | const `Nat.mul ..                                => return symbolT "*"
+  | const `Nat.div ..                                => return symbolT "div"
+  | const `Nat.le ..                                 => return symbolT "<="
+  | const `Nat.ge ..                                 => return symbolT ">="
+  -- TODO: why is this not removed at unfoldProjInsts ?
```
Comment (Vtec234) [inline Smt/Nat.lean:22]: Any idea? Is it a bug?

File: Test/Int/ForallExists.expected [hunk 3]
```diff
@@ -1,8 +1,7 @@
 goal: ∀ (x : Nat), ∃ y, Int.ofNat x ≤ y
 
 query:
-(define-sort Nat () Int)
-(assert (not (forall ((x Nat)) (=> (>= x 0) (exists ((y Int)) (<= x y))))))
+(assert (not (forall ((x Int)) (=> (>= x 0) (exists ((y Int)) (<= x y))))))
```
Comment (Vtec234) [inline Test/Int/ForallExists.expected:4]: Output change 1: goals like above are encoded as `Int`s directly. Do you think this is okay or a bug?

File: Test/Nat/Max.expected [hunk 4]
```diff
@@ -22,6 +22,7 @@ query:
 (declare-const y Nat)
 (assert (>= y 0))
 (define-fun Max ((x Nat) (y Nat)) Nat (ite (<= x y) y x))
+(assert (forall ((_uniq.231 Nat)) (=> (>= _uniq.231 0) (forall ((_uniq.232 Nat)) (=> (>= _uniq.232 0) (>= (Max _uniq.231 _uniq.232) 0))))))
```
Comment (Vtec234) [inline Test/Nat/Max.expected:25]: Output change 2: we now encode the inequality conditions for `define-fun`s as well as `declare-fun`. This seems correct to me, but maybe it is a regression?

**Review by abdoo8080 — CHANGES_REQUESTED** [review]
Great work! This PR removes many hacks that I introduced a long the way. I was a bit worried about the changes to `Query.lean` at first. But, I think I am fine with it. I left some nits to address before approving the PR.

File: Smt/Commands.lean [hunk 5]
```diff
@@ -0,0 +1,82 @@
...
```
[the remark this answers is not in the document]
Comment (Vtec234) [reply Smt/Commands.lean:14]: Ah yeah, I wasn't sure what your plans are for the `SolverM` so I didn't change anything there. In particular if it moves over to eager-mode where e.g. invoking `defineFun (..) : SolverM` sends that to the solver immediately via IO, we may not need to store the commands in `SolverM` any more.

File: Smt/Translator.lean [hunk 6]
```diff
@@ -0,0 +1,134 @@
...
+
+open Lean Meta Expr
+open Attribute Term
+
+structure TranslationM.State where
+  /-- Constants that the translated result depends on. We propagate these upwards during translation
+  in order to build a dependency graph. The value is reset at the `translateExpr` entry point. -/
+  depConstants : NameSet := .empty
+  /-- Memoizes `applyTranslators?` calls together with what they add to `depConstants`. -/
+  cache : Std.HashMap Expr (Option (Term × NameSet)) := .empty
```
[the remark this answers is not in the document]
Comment (Vtec234) [reply Smt/Translator.lean:24]: I did not, for now this mostly just helps simplify translation traces.

File: Smt/Query.lean [hunk 7]
```diff
@@ -6,189 +6,221 @@ Authors: Abdalrhman Mohamed, Tomaz Gomes Mascarenhas, Wojciech Nawrocki
...
+    if (← read).toDefine.elem e then addDefineCommandFor nm e params cod
+    -- Otherwise we just declare it.
+    else addDeclareCommandFor nm e tp params cod
+
+  -- Filter out fvars introduced by the forall telescope. We cannot just ignore all fvars because
+  -- the definition might depend on local bindings which we then have to translate.
+  deps.filterM (fun | fvar id .. => Option.isSome <$> findLocalDecl? id | _ => pure true)
+
+/-- Build a graph of SMT-LIB commands to emit with dependencies between them as edges. -/
+partial def buildDependencyGraph (g : Expr) : QueryBuilderM Unit := do
```
[the remark this answers is not in the document]
Comment (Vtec234) [reply Smt/Query.lean:173]: Hm, good point, I guess in that case we would need `define-funs-rec`. One option would be to have the first `Expr` which we process in the block emit the entire command including all the functions, but it feels quite hacky. Detecting SCCs might be better. I have no immediate need for mutual blocks anywhere so I am also happy to postpone this.
